US05225402
1-{1-[4-(1-Ethoxy-1-iminomethyl)benzoyl]-4piperidinyl{-3,4-dihydrocarbostyril (1 g) is dissolved in methanol (10 ml) and thereto is added aqueous ammonia (10 ml) and the mixture is stirred at room temperature overnight. The solvent is concentrated and water is added to the residue. The mixture is extracted with chloroform, dried with sodium carbonate, concentrated and then purified by silica gel column chromatography (solvent: chloroform: methanol=10:1) and recrystallized from ethanol/n-hexane to give 1-[1-(4-carbamoyl-4-piperidinyl]-3,4-dihydrocarbostyril (0.2 g) as white powder, m.p.: 101°-104° C.

reactant | 3,4-dihydrocarbostyril | 1 g | N1C(=O)CCC2=CC=CC=C12 | C9H9NO
reactant | ammonia | 10 ml | N | H3N
reactant | methanol | 10 ml | CO | CH4O
product | 1-(4-carbamoyl-4-piperidinyl]-3,4-dihydrocarbostyril | 0.2 g | C(N)(=O)C1(CCNCC1)N1C(=O)CCC2=CC=CC=C12 | C15H19N3O2
